US08497264B2
In a microwave vial, the potassium phosphate (0.771 g, 3.63 mmol), PdCl2(AmPhos)2 (0.064 g, 0.091 mmol) and 2-(5,6-dihydro-2H-pyran-3-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.356 g, 1.695 mmol) were loaded. The (S)-5-amino-2′-bromo-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol (0.459 g, 1.211 mmol) was added as a solution in dioxane (6 mL). Water (2.4 mL) was added and argon gas was blown through the vessel, which was sealed and heated by microwave at 120° C. for 30 min. The residue was taken up in half-saturated aqueous NH4Cl (30 mL) and the aqueous phase was extracted with 5% MeOH/DCM (3×25 mL). The organics were combined, washed with brine (7 mL), dried over sodium sulfate and concentrated to afford crude (S)-5-amino-2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol which was used directly in the next step.

reactant | potassium phosphate | 3.63 mmol, 0.771 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-(5,6-dihydro-2H-pyran-3-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.695 mmol, 0.356 g | O1CC(=CCC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
reactant | (S)-5-amino-2′-bromo-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol | 1.211 mmol, 0.459 g | NC1=N[C@]2(C3=CC(=CC=C3OC=3C(=CC(=CC23)Br)F)O)COC1 | C16H12BrFN2O3
reactant | Water | 2.4 mL | O | H2O
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | NH4Cl | 30 mL | [NH4+].[Cl-]
catalyst | PdCl2(AmPhos)2 | 0.091 mmol, 0.064 g | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | (S)-5-amino-2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol | NC1=N[C@]2(C3=CC(=CC=C3OC=3C(=CC(=CC23)C=2COCCC2)F)O)COC1 | C21H19FN2O4
